US07365095B2
Treatment of 4′-chloro-6-fluoro-2′-methylbiphenyl-2-ol (2.7 g, 11.4 mmol) with potassium carbonate (2.4 g, 17.1 mmol) and allyl bromide (1.5 mL, 17.1 mmol) in DMSO (100 mL) according to the procedure described for Example 69, Step 3 provided 2.1 g (66%) of 2′-allyloxy-4-chloro-6′-fluoro-2-methylbiphenyl as a colorless oil.

reactant | 4′-chloro-6-fluoro-2′-methylbiphenyl-2-ol | 11.4 mmol, 2.7 g | ClC1=CC(=C(C=C1)C=1C(=CC=CC1F)O)C | C13H10ClFO
reactant | potassium carbonate | 17.1 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 17.1 mmol, 1.5 mL | C(C=C)Br | C3H5Br
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 2′-allyloxy-4-chloro-6′-fluoro-2-methylbiphenyl | 2.1 g, 66% | C(C=C)OC1=C(C(=CC=C1)F)C1=C(C=C(C=C1)Cl)C | C16H14ClFO
